US07015326B1
In addition, compounds referred to hereinbelow as 7e and 7f were synthesized by modifying the method described by Tohda et al, Nucleophilic Reaction upon Electron-Deficient Pyridone Derivatives X. One-Pot Synthesis of 3-Nitropyridines by Ring Transformation of 1-Methyl-3,5-dinitro-2-pyridone with Ketones or Aldehydes in the Presence of Ammonia, Bull. Chem. Soc. Jpn. 1990, 63, 2820–2827, for producing nitropyridine by using 3,5 dinitro-1-methyl-2-pyridone which produced the nitro compound 7e which was reduced to the amine 7f.

reactant | Pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | 1-Methyl-3,5-dinitro-2-pyridone | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | Ammonia | N | H3N
product | nitropyridine | [N+](=O)([O-])C1=NC=CC=C1 | C5H4N2O2
